US05872115
Step 1): 30% H2O2 (6 ml) was added to a solution of 5-isopropyl-1H-indole-2,3-dione [J. Med. Chem., 19, 391(1976)] (4.0 g, 21.1 mmol) in 1N-NaOH (15 ml) at 5° C. The mixture was stirred for 3 hours at room temperature and then poured into H2O and acidified. The precipitates were filtered to give 5-isopropylanthranilic acid, 2.6 g (68.6%): mp 93°-95° C.

reactant | H2O2 | 6 ml | OO | H2O2
reactant | 5-isopropyl-1H-indole-2,3-dione | 21.1 mmol, 4.0 g | C(C)(C)C=1C=C2C(C(NC2=CC1)=O)=O | C11H11NO2
reactant | NaOH | 15 ml | [OH-].[Na+]
solvent | H2O | O | H2O
product | 5-isopropylanthranilic acid | C(C)(C)C1=CC=C(C(C(=O)O)=C1)N | C10H13NO2
